US09145441B2
Compound 108a: (S)-1-((S)-2-tert-Butoxycarbonylamino-3-pyrazol-1-yl-propionyl)-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester
To (S)-tetrahydro-pyridazine-1,2,3-tricarboxylic acid 1,2-di-tert-butyl ester 3-(2,2,2-trichloro-ethyl)ester (909 mg, 1.97 mmol) in anhydrous dichloromethane (6 mL) at room temperature and under an atmosphere of nitrogen was added trifluoroacetic acid (6 mL, 173 mmol). The solution was warmed to room temperature and stirred for 16 h. The reaction was concentrated in vacuo and the residue co-evaporated from toluene (3×). The resulting brown viscous oil was dissolved in anhydrous acetonitrile (2 mL) and added to a solution of L-N-Boc-3-pyrazol-1-yl-alanine (500 mg, 1.97 mmol), N,N-diisopropylethylamine (1.4 mL, 7.87 mmol) and 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium (747 mg, 1.97 mmol) in anhydrous acetonitrile (10 mL) that had been previously stirred at 0° C. for 20 minutes. The reaction was warmed to room temperature and stirred for 16 h. The reaction was cooled to 0° C. diluted with ethyl acetate and quenched with 1 M hydrochloric acid. The organic layer was separated and washed with a saturated aqueous solution of sodium bicarbonate (2×) and brine (1×). The organic layer was then dried through a hydrophobic frit and concentrated in vacuo. The residue was purified by silica gel chromatography using iso-hexanes/ethyl acetate 1:1 then 2:1 to give the title compound (999 mg, 95%) as a white foam, as a 2:1 mixture of diastereoisomers. LCMS (m/z) 500.1 [M+H], Tr=2.71 min.

reactant | (S)-tetrahydro-pyridazine-1,2,3-tricarboxylic acid 1,2-di-tert-butyl ester 3-(2,2,2-trichloro-ethyl)ester | 1.97 mmol, 909 mg | ClC(COC(=O)[C@H]1N(N(CCC1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)(Cl)Cl | C17H27Cl3N2O6
reactant | trifluoroacetic acid | 173 mmol, 6 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | L-N-Boc-3-pyrazol-1-yl-alanine | 1.97 mmol, 500 mg | CC(C)(C)OC(=O)N[C@@H](CN1C=CC=N1)C(=O)O | C11H17N3O4
reactant | N,N-diisopropylethylamine | 7.87 mmol, 1.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium | 1.97 mmol, 747 mg | C[NH3+].F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-1-((S)-2-tert-Butoxycarbonylamino-3-pyrazol-1-yl-propionyl)-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 999 mg, 95% | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](CN1N=CC=C1)NC(=O)OC(C)(C)C)=O)(Cl)Cl | C18H26Cl3N5O5
